Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
monitoring after unresponsive event
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with h/o GERD and large ASD who presented for percutaneous
closure of ASD. Please see Anesthesia event note from ___ 
for
details surrounding her PACU course and event. At time of this
author's evaluation in the PACU, patient reports improvement in
headache, currently mild ___ occipital headache worse with
movement, up to ___. She reports that her vision is "fuzzy" 
but
also improving. Prior nausea has resolved after treatment with
ondansetron and dexamethasone. 

On arrival to the CCU, she notes that her headache has now
completely resolved. She endorses mild epigastric discomfort,
which she attributes to her typical GERD.
 
 REVIEW OF SYSTEMS:  She denies current chest pain, dyspnea,
abdominal pain, changes in bowel or bladder habits. She states
that she continues to have episodes of sharp chest pain and
dyspnea on average twice weekly. 

 
Past Medical History:
PAST MEDICAL HISTORY:  
 1. Cardiac Risk Factors  
 -  HLD
 2. Cardiac History  
 -  ASD
 3. Other PMH  
 -  GERD
 -  h/o childhood Henoch-Schonlein Purpura
 -  migraines

 
Social History:
___
Family History:
Mother - apparently healthy, age ___
Father - apparently healthy, age ___
Maternal Grandfather - myocardial infarction at age ___
Siblings - one brother and one sister are apparently healthy
 
Physical Exam:
ADMISSION PHYSICAL EXAM
============================
 VS:  98.9 113/64 102 18 97%RA
 GENERAL: Well developed, well nourished in NAD. Oriented x3.
Mood, affect appropriate.  
 HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. 
EOMI.
 NECK: Supple. JVP flat at 90 degrees.  
 CARDIAC: Tachycardic rate, regular rhythm. II/VI systolic
ejection murmur loudest at LUSB
 LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. No adventitious breath
sounds.  
 ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
 EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
 SKIN: No significant skin lesions or rashes.  
 PULSES: Distal pulses palpable and symmetric.
 Neuro: CN III-XI intact, ___ muscle strength in bilateral lower
and upper extremities
 
Pertinent Results:
ADMISSION LABS
===============
___ 11:45AM BLOOD Glucose-98 Lactate-3.1* Na-139 K-3.6 
Cl-105 calHC___

No micro or imaging studies
 
Brief Hospital Course:
Patient summary - ___ with GERD, h/o migraine, and ASD who 
presented for elective ASD closure. She had an episode of 
non-responsiveness followed by headache and visual changes. 
Negative head/neck CT. Neurology evaluated, felt symptoms were 
secondary to migraine with no suspicion for TIA or stroke.

Acute issues - Treated with anti-emetics and non-narcotic pain 
medications with complete resolution of headache, nausea, and 
visual changes, all attributed to migraine

Chronic issues - no changes

Transitional issues
===================
- Patient to follow up with structural cardiology to reschedule 
elective ASD closure
- Full code, verified
- HCP - mother, ___ (mom): ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
migraine

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure caring for you at the ___ 
___. You were hospitalized after having an episode of 
unresponsiveness prior to your planned atrial septal defect 
closure procedure. You were evaluated by the Neurology team and 
had a CT scan of your head and neck that was reassuring. Your 
symptoms were felt to be due to a migraine headache.

You will reschedule your procedure with the Structural 
Cardiology team in the future.

We wish you the best!
Your ___ Cardiac ICU team
 
Followup Instructions:
___